US05840911
1-[4-(N-Hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-imidazole dihydrochloride
A mixture of 0.837 g (4.079 mmol) of 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime, 0.40 g (4.077 mmol) of 1,2-diamino-imidazole, 23 ml of isopropanol and 1.33 ml of concentrated hydrochloric acid is heated under reflux for 22 hours. Filtration of the hot reaction mixture, washing of the crystallizate with isopropanol and diethyl ether and drying under a high vacuum yield the title compound, m.p. 258°-260° C. (decomp.), 1H-NMR (DMSO/D2O): δ=8.29 (d, 1H); 7.80 (d, 1H); 7.65 (t, 1H); 7.55 (d, 1H); 7.13 (d, 1H); 3.22-3.32 (m 4H).

reactant | 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime | 4.079 mmol, 0.837 g | ONC(=N)C1=C2CCC(C2=CC=C1)=NO | C10H11N3O2
reactant | 1,2-diamino-imidazole | 4.077 mmol, 0.40 g | NN1C(=NC=C1)N | C3H6N4
reactant | hydrochloric acid | 1.33 ml | Cl | ClH
solvent | isopropanol | 23 ml | C(C)(C)O | C3H8O
product | 1-[4-(N-Hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-imidazole dihydrochloride | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC=C1)N | InChI=1S/C13H14N6O.2ClH/c14-12(18-20)10-3-1-2-9-8(10)4-5-11(9)17-19-7-6-16-13(19)15;;/h1-3,6-7,20H,4-5H2,(H2,14,18)(H2,15,16);2*1H
